US07160888B2
A first intermediate compound, 7-Chloro-3-methyl-1H-[1,8]naphthyridin-2-one, was produced as follows: Diisopropyl amine (freshly distilled over sodium, 12.8 mL, 91.4 mmol, 2.2 equiv.) was dissolved in Et2O (40 mL) and cooled to −78° C. Butyl lithium (2.5 M solution in hexane, 37.0 mL, 91.4 mmol, 2.2 equiv.) was added slowly under nitrogen atmosphere. The mixture was stirred for 15 min and t-butyl propionate (13.8 mL, 91.4 mmol, 2.2 equiv.) was added as a solution in dry THF (20 mL). The reaction mixture was stirred for 30 min and N-(6-chloro-3-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide (10.0 g, 42.0 mmol, 1.0 equiv.) was added as a solution in a minimum amount of dry THF (35 mL). A bright yellow precipitate was formed within 10 min and stirring became difficult. The reaction was allowed to warm up to RT. The reaction mixture turned dark red and was poured into saturated NH4Cl (100 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4 and concentrated. 3-[6-Chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-2-methyl-propionic acid tert-butyl ester was obtained as a yellow thick syrup which upon drying under high vacuum became a foamy solid (20.0 g, crude). The product was used in the next step without further purification.

reactant | Butyl lithium | 91.4 mmol, 2.5 M, 37.0 mL, 2.2 equiv. | C(CCC)[Li]
reactant | t-butyl propionate | 91.4 mmol, 13.8 mL, 2.2 equiv. | C(CC)(=O)OC(C)(C)C | C7H14O2
reactant | N-(6-chloro-3-formyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 42.0 mmol, 10.0 g, 1.0 equiv. | ClC1=CC=C(C(=N1)NC(C(C)(C)C)=O)C=O | C11H13ClN2O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-[6-Chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C(O)C=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O)C)=O | C18H27ClN2O4
